US08049006B2
[6-benzyl-4-(4-chlorobenzenesulfonyl)-2,5-dioxo-1,4-diazepan-1-yl]acetic Acid (Compound 246)
To the tert-butyl [(2-benzyl-3-{[(4-chlorophenyl)sulfonyl]amino}-3-oxopropyl)(3-butenoyl)amino]acetate (505 mg), synthesized by using, instead of the starting material compound of Reference Example 117, that is, the compound S6, the compound S175 for the similar procedure as in Reference Example 117, in tetrahydrofuran (10 ml) solution, tetrakis(triphenylphosphine)palladium (0) (104 mg) and dimedone (1 g) were added and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated and suspended in methanol-diethylether, and the precipitate was collected by filtration. The collected precipitate was used for the similar procedure was followed as in Reference Example 124, Example 1, and Example 251 to obtain the title compound.

reactant | tert-butyl [(2-benzyl-3-{[(4-chlorophenyl)sulfonyl]amino}-3-oxopropyl)(3-butenoyl)amino]acetate | 505 mg | C(C1=CC=CC=C1)C(CN(C(CC=C)=O)CC(=O)OC(C)(C)C)C(=O)NS(=O)(=O)C1=CC=C(C=C1)Cl | C26H31ClN2O6S
reactant | dimedone | 1 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 104 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [6-benzyl-4-(4-chlorobenzenesulfonyl)-2,5-dioxo-1,4-diazepan-1-yl]acetic Acid | C(C1=CC=CC=C1)C1C(N(CC(N(C1)CC(=O)O)=O)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C20H19ClN2O6S
